US20010047027A1
Step a(1). 1-[2-(methylsulfanyl)phenyl]hydrazine
2-(Methylthio)aniline (30 g, 215 mmol) was dissolved in 2N HCl (215 ml) and cooled to 0° C. and a solution of NaNO2 (16.3 g, 237 mmol) in 50 ml water was added dropwise (maintaining the temperature below 5° C). After 10 min the solution was added portionwise to a solution of Na2S2O4 (220 g 85% pure, 1075 mmol) in a biphasic mixture of 1200 ml of ether and 1200 mL of water dropwise (maintaining the temperature below 5° C). After stirring for one hour at 0° C. the mixture was warmed to room temperature and the pH set to 10 with 2N NaOH. The ether layer was separated and the aqueous layer washed once with ether. The combined organic layers were dried with sodium sulfate, the solvent removed and the product purified on silica with 25% ethyl acetate/hexane to provide 15.7 g of the title compound (47%).

reactant | 2-(Methylthio)aniline | 215 mmol, 30 g | CSC1=C(N)C=CC=C1 | C7H9NS
reactant | NaNO2 | 237 mmol, 16.3 g | N(=O)[O-].[Na+]
reactant | Na2S2O4 | 1075 mmol, 220 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | HCl | 2N, 215 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | water | 1200 mL | O | H2O
solvent | ether | 1200 ml | CCOCC | C4H10O
product | 1-[2-(methylsulfanyl)phenyl]hydrazine | 15.7 g, 47% | CSC1=C(C=CC=C1)NN | C7H10N2S
